US04386031
(a) 8-[4-Chloro-N-(4-methoxyphenyl)-benzamido]-caprylic acid methyl ester
As described in example 1(a), the reaction is carried out with 130.7 g (0.5 mol) of 4-chloro-N-(4-methoxyphenyl)-benzamide, 24.5 g (1 mol) sodium hydride, 700 cc. of dimethylformamide and 118.5 g (0.5 mol) of 8-bromocaprylic acid methyl ester. Reaction time and reaction temperature: 5 hours at 80° C., thereafter 12 hours at 100° C. The reaction mixtures are further processed as described in example 1(a). The crude product is dissolved in 300 cc. of ether. After standing for a prolonged period, the unreacted 4-chloro-N-(4-methoxyphenyl)-benzamide separates by crystallisation and is filtered off. The solvent is partly distilled off and the resulting oily crude product (181 g) is separated. 125 g are used in the next step without further purification, the remainder (56 g) is purified chromatographically on silicic acid using chloroform as eluant.

reactant | 4-chloro-N-(4-methoxyphenyl)-benzamide | 0.5 mol, 130.7 g | ClC1=CC=C(C(=O)NC2=CC=C(C=C2)OC)C=C1 | C14H12ClNO2
reactant | sodium hydride | 1 mol, 24.5 g | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 8-bromocaprylic acid methyl ester | 0.5 mol, 118.5 g | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | ether | CCOCC | C4H10O
product | 8-[4-Chloro-N-(4-methoxyphenyl)-benzamido]-caprylic acid methyl ester | COC(CCCCCCCN(C(C1=CC=C(C=C1)Cl)=O)C1=CC=C(C=C1)OC)=O | C23H28ClNO4
